US05861359
A stirred solution of 0.2 gram (0.004 mole) of sodium methoxide in 20 mL of methanol was cooled to about 5° C., and a solution of 4.7 grams (0.020 mole) of methyl 2-(5-ethyl-2-formylphenoxy)propanoate in 30 mL of methanol was added. Upon completion of addition, 0.2 gram (0.006 mole) of sodium borohydride was added. The reaction mixture was then allowed to warm to ambient temperature where it stirred for one hour. After this time the reaction mixture was poured into 40 mL of aqueous 0.25N hydrochloric acid solution. The mixture was extracted with methylene chloride, and the combined extracts were concentrated under reduced pressure to a residue. The residue was purified using column chromatography, yielding methyl 2-(5-ethyl-2-hydroxymethylphenoxy)propanoate. The methyl 2-(5-ethyl-2-hydroxymethylphenoxy)propanoate, 1.1 grams (0.005 mole), was dissolved in 60 mL of methylene chloride, and one drop of pyridine and 0.4 mL of thionyl chloride were added. Upon completion of addition, the reaction mixture was warmed to 50° C. where it stirred for about two hours. After this time the reaction mixture was allowed to cool to ambient temperature. The reaction mixture was then washed with water and dried with magnesium sulfate. The mixture was filtered, and the filtrate was passed through a pad of silica gel. The eluate was concentrated under reduced pressure, yielding 0.9 gram of title compound.

reactant | sodium methoxide | 0.004 mole, 0.2 gram | C[O-].[Na+]
reactant | methyl 2-(5-ethyl-2-formylphenoxy)propanoate | 0.020 mole, 4.7 grams | C(C)C=1C=CC(=C(OC(C(=O)OC)C)C1)C=O | C13H16O4
reactant | sodium borohydride | 0.006 mole, 0.2 gram | [BH4-].[Na+]
reactant | hydrochloric acid | 0.25N | Cl | ClH
solvent | methanol | 20 mL | CO | CH4O
solvent | methanol | 30 mL | CO | CH4O
product | methyl 2-(5-ethyl-2-hydroxymethylphenoxy)propanoate | C(C)C=1C=CC(=C(OC(C(=O)OC)C)C1)CO | C13H18O4
